US06335341B1
A solution of 4-bromophenylsulphonyl chloride (411 mg) in methylene chloride (4 ml) was added dropwise over 15 minutes to a mixture of 4-[4-(4-pyridyl)-1-piperidylmethyl]piperidine trihydrochloride (545 mg) and triethylamine (1.07 ml) in dichloromethane (10 ml) at 0° C. The solution was stirred at ambient temperature for 18 hours. The solution was diluted with dichloromethane and washed with water, dried (Na2SO4) and evaporated. The residue was purified by chromatography eluting with 4% methanol in dichloromethane. Recrystallisation from ethyl acetate/hexane gave, as a solid 1-(4-bromophenylsulphonyl)-4-[4-(4-pyridyl)-1-piperidylmethyl]piperidine (410 mg), mp 163-164° C.

reactant | 4-bromophenylsulphonyl chloride | 411 mg | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
reactant | 4-[4-(4-pyridyl)-1-piperidylmethyl]piperidine trihydrochloride | 545 mg | Cl.Cl.Cl.N1=CC=C(C=C1)C1CCN(CC1)CC1CCNCC1
reactant | triethylamine | 1.07 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(4-bromophenylsulphonyl)-4-[4-(4-pyridyl)-1-piperidylmethyl]piperidine | 410 mg | BrC1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)CN1CCC(CC1)C1=CC=NC=C1 | C22H28BrN3O2S
